US07030139B2
57E: 2-[(4-ethoxyphenyl)methyl]-N,N-diethyl-3-[(5-nitro-2-thienyl)methyl]-3H-imidazo[4,5-b]pyridine-6-carboxamide
To a solution of 6-amino-5-[[(4-ethoxyphenyl)acetyl]amino]-N,N-diethyl-3-pyridinecarboxamide (30 mg, 0.08 mmol) in dichloroethane (0.5 mL) and acetic acid (0.5 mL) at room temperature was added 5-nitro-2-thiophenecarboxaldehyde (19 mg, 0.12 mmol). The mixture was stirred for 4.5 hours. BH3. pyridine (8.2 μL, 0.08 mmol) was added and the reaction brought to 84° C. After stirring overnight, the mixture was cooled to room temperature and 5-nitro-2-thiophenecarboxaldehyde (19 mg, 0.12 mmol) was added. The mixture was stirred for 5 hours. BH3.pyridine (8.2 μL, 0.08 mmol) was added and the reaction brought to 84° C. After stirring overnight, the reaction was quenched with 1 M NaOH aqueous solution (20 mL) and extracted with EtOAc (20 mL). The aqueous phase was back-extracted with additional dichloromethane (2×20 mL). The organic phases were combined, dried with MgSO4, filtered and concentrated in vacuo. The residue was purified using silica gel flash chromatography ([3% MEOH+0.5% NH4OH aq] in CH2Cl2) to provide the title compound 2-[(4-ethoxyphenyl)methyl]-N,N-diethyl-3-[(5-nitro-2-thienyl)methyl]-3H-imidazo[4,5-b]pyridine-6-carboxamide (purity: >84% at 215 nm, >81% at 254 nm, >68% at 280 nm). 1H-NMR (400 MHz, CDCl3): δ 1.23 (m, 6H), 1.40 (t, J=6.8 Hz, 3H), 3.36 (br s, 2H), 3.60 (br s, 2H), 3.98 (q, J=6.8 Hz, 2H), 4.29 (s, 2H), 4.84 (s, 2H), 6.80 (d, J=8.6 Hz, 2H), 7.07 (d, J=8.6 Hz, 2H), 7.66 (d, J=4.1 Hz, 1H), 7.77 (d, J=4.1 Hz, 1H), 8.03 (d, J=2.0 Hz, 1H), 8.03 (d, J=2.0 Hz, 1H). MS (ESI) (M+H)+: 494.

reactant | 6-amino-5-[[(4-ethoxyphenyl)acetyl]amino]-N,N-diethyl-3-pyridinecarboxamide | 0.08 mmol, 30 mg | NC1=C(C=C(C=N1)C(=O)N(CC)CC)NC(CC1=CC=C(C=C1)OCC)=O | C20H26N4O3
reactant | 5-nitro-2-thiophenecarboxaldehyde | 0.12 mmol, 19 mg | [N+](=O)([O-])C1=CC=C(S1)C=O | C5H3NO3S
reactant | pyridine | 0.08 mmol, 8.2 μL | N1=CC=CC=C1 | C5H5N
reactant | 5-nitro-2-thiophenecarboxaldehyde | 0.12 mmol, 19 mg | [N+](=O)([O-])C1=CC=C(S1)C=O | C5H3NO3S
reactant | pyridine | 0.08 mmol, 8.2 μL | N1=CC=CC=C1 | C5H5N
solvent | dichloroethane | 0.5 mL | ClC(C)Cl | C2H4Cl2
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | 2-[(4-ethoxyphenyl)methyl]-N,N-diethyl-3-[(5-nitro-2-thienyl)methyl]-3H-imidazo[4,5-b]pyridine-6-carboxamide | C(C)OC1=CC=C(C=C1)CC1=NC=2C(=NC=C(C2)C(=O)N(CC)CC)N1CC=1SC(=CC1)[N+](=O)[O-] | C25H27N5O4S
